US08791146B2
4-[4-(2-Hydroxyethoxy)phenyl]-2-methoxy-6-[(3-methoxybenzyl)sulphanyl]pyridine-3,5-dicarbonitrile
75 mg (0.229 mmol) of 4-[4-(2-hydroxyethoxy)phenyl]-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile together with 36 μl (0.253 mmol) of 3-methoxybenzyl bromide and 52 mg (0.380 mmol) of potassium carbonate are stirred in 1 ml of DMF at room temperature overnight. The reaction mixture is purified by preparative HPLC (acetonitrile/water: 10:90→95:5, with 0.1% formic acid added). This gives 16 mg (56% of theory) of the target compound.

reactant | 4-[4-(2-hydroxyethoxy)phenyl]-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile | 0.229 mmol, 75 mg | OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)S)OC)C#N | C16H13N3O3S
reactant | 3-methoxybenzyl bromide | 0.253 mmol, 36 μl | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | potassium carbonate | 0.380 mmol, 52 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-[4-(2-Hydroxyethoxy)phenyl]-2-methoxy-6-[(3-methoxybenzyl)sulphanyl]pyridine-3,5-dicarbonitrile | OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)SCC1=CC(=CC=C1)OC)OC)C#N | C24H21N3O4S
